US06323346B1
A mixture of 0.5 mmol of N-butylidenebutylamine, 0.5 mmol of ethyl diazoacetate, 0.015 mmol of di-μ-chlorotetrakis(cyclooctene)diiridium(I) [Ir2Cl2(cyclooctene)4] , and 0.5 ml of ethanol was stirred at room temperature (250° C.) in an argon atmosphere for 3 hours to yield 1-butyl-2-ethoxycarbonyl-3-propylaziridine in a yield of 30%.

reactant | N-butylidenebutylamine | 0.5 mmol | C(CCC)=NCCCC | C8H17N
reactant | ethyl diazoacetate | 0.5 mmol | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | ethanol | 0.5 ml | C(C)O | C2H6O
catalyst | di-μ-chlorotetrakis(cyclooctene)diiridium(I) | 0.015 mmol | C1CC/C=C\CCC1.C1CC/C=C\CCC1.C1CC/C=C\CCC1.C1CC/C=C\CCC1.[Cl-].[Cl-].[Ir].[Ir]
product | 1-butyl-2-ethoxycarbonyl-3-propylaziridine | yield of 30% | C(CCC)N1C(C1CCC)C(=O)OCC | C12H23NO2
